2160-01-29 07:45:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: elective lap chole for symptomatic
   cholelithiasis
   Reason for MICU admissioN: persisting post op hypotension
   24 Hour Events:
   [**1-28**]
   -Refusing blood transfusion despite telling her risk of death. Several
   conversations failed to sway her citing risk of infection.
   - Now to OR for exploration for bleed
   Allergies:
   Morphine
   heart paplitati
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2160-1-29**] 02:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis
   Flowsheet Data as of  [**2160-1-29**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 109 (97 - 115) bpm
   BP: 111/63(73) {73/50(61) - 118/69(77)} mmHg
   RR: 20 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    250 mL
                                                                    769 mL
   PO:
           TF:
   IVF:
                                                                    250 mL
                                                                    750 mL
   Blood products:
   19 mL
   Total out:
                                                                    610 mL
                                                                    290 mL
   Urine:
                                                                    160 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Labs / Radiology
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.5 mEq/L
   18 mg/dL
   104 mEq/L
   138 mEq/L
   20.2 %
        [image002.jpg]
                             [**2160-1-28**]  08:44 PM
                             [**2160-1-29**]  12:23 AM
                             [**2160-1-29**]  05:21 AM
   Hct
   24.1
   23.8
   20.2
   Cr
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   118
   Other labs: PT / PTT / INR:11.7/19.0/1.0, CK / CKMB /
   Troponin-T:78/2/<0.01, Lactic Acid:2.0 mmol/L, Ca++:7.8 mg/dL, Mg++:2.3
   mg/dL, PO4:3.4 mg/dL
   Imaging: CT ABD/PELVIS [**2160-1-28**]:
   PFI: Small amount of free fluid in the perihepatic, perisplenic and
   supraumbilical region, all measuring simple fluid attenuation. If there
   is
   persistent concern for hemorrhage, CT with IV contrast can be
   repeated.
   Bibasilar lung opacities may represent aspiration, atelectasis, or
   infection.
   ABD U/S [**2160-1-28**]:
   Trace perihepatic fluid. Small amount of complex fluid just superior to
   the
   bladder, with layering debris versus blood products. If there is
   persistent
   clinical concern for hemorrhage, CT abdomen and pelvis may be obtained
   if the patient is able to tolerate.
   Microbiology: [**2160-1-29**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2160-1-28**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2160-1-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   ECG: S tach.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   42F with depression, biliary colic, now admitted to [**Hospital Unit Name 13562**]#0 from lap
   chole complicated by hypotension, hematocrit drop, and evidence of
   intraabdominal hematoma taken back to OR this AM.
   .
   # Hypotension.  [**1-8**] bleed given dropping HCTs, taken urgently to the OR
   this AM.  Perihepatic bleeding site identified, cauterization
   performed. Intraop she did not require pressors. She received 1 unit
   pRBC in AM and 2^nd unit intra-op.  Her BP has since improved. Of note,
   blood and urine cx NGTD.
   - Transfuse 3^rd unit pRBC
   - Support with crystalloid prn.
   - Close monitoring of UOP, HR, BP, lactates.
   - Post transfusion hct, serial hct q8hrs
   - Surgery actively following; consideration for going back to OR but
   would be difficult given inability to blood consent.
   .
   # Acute blood loss anemia.  See above, secondary to bleeding now s/p
   surgical intervention and 2 units pRBC.Currently hemodynamically stable
   after surgical intervention.
   - Transfuse 3^rd unit pRBC
   - Support with crystalloid prn.
   - Post transfusion hct, serial hct q8hrs
   - Active T/S
   - Place 2^nd for better access and bleed
   .
   # Hypoxia: Now requiring nasal canula.  She is s/p IVFs, possible pulm
   edema.  Other possibilities is aspiration event after intubation,
   infection, post-op pain and hypoventilation.
   - CXR
   - Encourage I/S
   - If overloaded will give lasix with blood
   # S/p Chole:
   - Monitor for post-op ileus
   - Pain control with PCA
   - NPO for now
   - Follow up with surgery recs
   # Depression.
   - Continue home anti-depressant medications.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: monitor
   Lines:
   16 Gauge - [**2160-1-28**] 08:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2160-1-28**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2160-01-29 10:27:00 Physician Attending Progress Note
Chief Complaint: hypotension, postoperative blood loss
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct continued to drop to 20, transfused 2 u pRBCs, taken to OR and
   clot/blood extracted laparoscopically
   Requiring increased FiO2 this morning; received transfusions plus ~1700
   cc crystalloid
   Patient just back from OR
   History obtained from Patient
   Allergies:
   Morphine
   heart paplitati
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2160-1-29**] 02:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-1-29**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 95 (95 - 120) bpm
   BP: 175/79(111) {160/75(103) - 175/79(111)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    250 mL
                                                                  2,983 mL
   PO:
           TF:
   IVF:
                                                                    250 mL
                                                                  2,353 mL
   Blood products:
   630 mL
   Total out:
                                                                    610 mL
                                                                  1,705 mL
   Urine:
                                                                    160 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                  1,278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : occ. dependently,
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, somnolent since return from
   OR, snoring
   Labs / Radiology
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.5 mEq/L
   18 mg/dL
   104 mEq/L
   138 mEq/L
   20.2 %
        [image002.jpg]
                             [**2160-1-28**]  08:44 PM
                             [**2160-1-29**]  12:23 AM
                             [**2160-1-29**]  05:21 AM
   Hct
   24.1
   23.8
   20.2
   Cr
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   118
   Other labs: PT / PTT / INR:11.7/19.0/1.0, CK / CKMB /
   Troponin-T:78/2/<0.01, Lactic Acid:2.0 mmol/L, Ca++:7.8 mg/dL, Mg++:2.3
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK): Secondary to postoperative blood loss status
   post lap choly.
 ANEMIA SECONDARY TO BLOOD LOSS:  Clot evacuated in OR.  Now has
   received 2 u pRBCs, to receive a third.  Check post-transfusion labs.
   Coags WNL.  Follow urine output, hemodynamics.  Keep NPO.
 HYPOXIA:  Increased FiO2 requirements.  Plan to check CXR, give lasix
   with blood after discussing with surgery. Also may have a component of
   OSA, now somnolent postoperatively.  No frank apneas.  [**Month (only) 51**] be splinting
   secondary to postop pain as well so pain control will be important.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   16 Gauge - [**2160-1-28**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2160-01-30 06:59:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: elective lap chole for symptomatic
   cholelithiasis
   Reason for MICU admissioN: persisting post op hypotension
   24 Hour Events:
 OR RECEIVED - At [**2160-1-29**] 10:04 AM
 ARTERIAL LINE - START [**2160-1-29**] 11:14 AM
   [**1-29**]
   - went back to OR, blood in peritoneum, no active source, cauterized
   - serial crits
   - low grade temps
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   heart paplitati
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies CP, SOB, N/V, diarrhea, constipation. Not
   passing gas yet. Feels great.
   Flowsheet Data as of  [**2160-1-30**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.9
C (96.6
   HR: 98 (85 - 120) bpm
   BP: 103/51(65) {88/44(58) - 175/79(111)} mmHg
   RR: 17 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,723 mL
                                                                    607 mL
   PO:
             TF:
   IVF:
                                                                  3,743 mL
                                                                    607 mL
   Blood products:
                                                                    980 mL
   Total out:
                                                                  3,040 mL
                                                                    510 mL
   Urine:
                                                                  1,660 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,683 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GEN: Obese, pleasant young woman in NAD
   CV: RRR, no RMG
   PULM: Bibasilar rhales, no WR
   ABD: Obese, soft, NTND, +BS, inicision dressing clean, dry, and intact.
   EXT: No edema
   Labs / Radiology
   210 K/uL
   8.4 g/dL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   106 mEq/L
   136 mEq/L
   24.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2160-1-28**]  08:44 PM
                             [**2160-1-29**]  12:23 AM
                             [**2160-1-29**]  05:21 AM
                             [**2160-1-29**]  11:55 AM
                             [**2160-1-29**]  03:21 PM
                             [**2160-1-29**]  05:46 PM
                             [**2160-1-29**]  11:45 PM
                             [**2160-1-30**]  04:53 AM
   WBC
   11.9
   Hct
   24.1
   23.8
   20.2
   28.6
   26.7
   26.0
   25.4
   24.2
   Plt
   210
   Cr
   0.7
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   118
   111
   Other labs: PT / PTT / INR:12.9/22.9/1.1, CK / CKMB /
   Troponin-T:78/2/<0.01, Lactic Acid:2.0 mmol/L, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:1.7 mg/dL
   Imaging: CXR AP [**2160-1-29**]:
   FINDINGS: As compared to the previous examination, there is a marked
   increase in lung density in both the right and the left lung bases.
   Coexisting air bronchograms suggest an increase in the extent of the
   pre-existing areas of atelectasis. However, coexisting pneumonia,
   potentially after aspiration, is also possible. In addition, there is
   moderate blunting of the left
   costophrenic sinus, so that the presence of a small pleural effusion
   cannot be excluded.
   Unchanged borderline size of the cardiac silhouette. No overt pulmonary
   edema, but increased width of the right mediastinal aspects could
   suggest
   increased venous blood volume.
   Microbiology: [**2160-1-29**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2160-1-28**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 HYPOTENSION (NOT SHOCK)
   42F with depression, biliary colic, now admitted to [**Hospital Unit Name 13562**]#0 from lap
   chole complicated by hypotension, hematocrit drop, and evidence of
   intraabdominal hematoma taken back to OR this AM.
   .
   # Hypotension. Resolved at present (a-line readings inaccurate and
   positional). [**1-8**] bleed given dropping HCTs, taken urgently to the OR
   yesterday AM.  Perihepatic bleeding site identified, cauterization
   performed. She received 2 units pRBC in AM and 3rd unit intra-op.  Of
   note, blood and urine cx NGTD.
   - Support with crystalloid prn.
   - Close monitoring of UOP, HR, BP, lactates.
   - serial hct q8hrs
   - Recheck HCT today at 1400. If stable, will get called out to gen [**Doctor First Name 213**]
   service.
   - Surgery actively following; appreciate their input
   - 2 PIVs in place
   - Active T/S
   .
   # Acute blood loss anemia.  See above, secondary to bleeding now s/p
   surgical intervention and 2 units pRBC. Currently hemodynamically
   stable after surgical intervention.
   - Plan per above
   .
   # Leukocytosis/low grade temps: [**Month (only) 51**] be a result of recent stresses. Had
   received tylenol prior to temp this AM. However, given hypoxia,
   opacities on CXR and 2 intubations for surgery, aspiration pneumonia is
   a concern.
   - Sputum, urine, blood culture
   - Repeat CXR
 no infiltrates noted on our read, f/u final read
   .
   # Hypoxia: Now requiring nasal canula.  She is s/p IVFs, possible pulm
   edema.  Other possibilities is aspiration event after intubation,
   infection, post-op pain and hypoventilation.
   - CXR
   - Encourage I/S
   - Wean O2
   - Walk patient
   # S/p Chole:
   - Monitor for post-op ileus
   - Pain control with PCA
   - NPO for now, can advance diet pending nl HCT at 1400 today
   - Follow up with surgery recs
   # Depression.
   - Continue home anti-depressant medications.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: monitor
   Lines:
   16 Gauge - [**2160-1-28**] 08:00 PM
   2^nd PIV
   A-line
 will pull today if called out
   Prophylaxis:
   DVT: boots
   Stress ulcer:  not indicated
   VAP:
   Comments:
   Communication:  Patient and patient
s husband
   [**Name (NI) 36**] status: Full code
   Disposition: Likely call out to surgery service pending stable HCT at
   1400 today

2160-01-30 12:14:00 Physician Attending Progress Note
Chief Complaint: postoperative bleeding, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR RECEIVED - At [**2160-1-29**] 10:04 AM
 ARTERIAL LINE - START [**2160-1-29**] 11:14 AM
   Patient out of bed to chair, no complaints of lightheadedness or
   dizziness
   History obtained from Patient
   Allergies:
   Morphine
   heart paplitati
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-1-30**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98.1
   HR: 96 (85 - 118) bpm
   BP: 70/64(67) {70/44(58) - 151/68(92)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,724 mL
                                                                    839 mL
   PO:
             TF:
   IVF:
                                                                  3,744 mL
                                                                    839 mL
   Blood products:
                                                                    980 mL
   Total out:
                                                                  3,040 mL
                                                                  1,970 mL
   Urine:
                                                                  1,660 mL
                                                                  1,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,684 mL
                                                                 -1,131 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L > R base, doesn't clear with cough)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   210 K/uL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   9 mg/dL
   106 mEq/L
   136 mEq/L
   24.2 %
   11.9 K/uL
        [image002.jpg]
                             [**2160-1-28**]  08:44 PM
                             [**2160-1-29**]  12:23 AM
                             [**2160-1-29**]  05:21 AM
                             [**2160-1-29**]  11:55 AM
                             [**2160-1-29**]  03:21 PM
                             [**2160-1-29**]  05:46 PM
                             [**2160-1-29**]  11:45 PM
                             [**2160-1-30**]  04:53 AM
   WBC
   11.9
   Hct
   24.1
   23.8
   20.2
   28.6
   26.7
   26.0
   25.4
   24.2
   Plt
   210
   Cr
   0.7
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   118
   111
   Other labs: PT / PTT / INR:12.9/22.9/1.1, CK / CKMB /
   Troponin-T:78/2/<0.01, Lactic Acid:2.0 mmol/L, Ca++:7.5 mg/dL, Mg++:2.3
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED):  Hct has been stable.  Last transfusion yesterday afternoon.
   Repeat hct at 2 pm, if stable will be called out to the surgical
   service.  Also in positive fluid balance so some of equilibration of
   hct likely dilutional.
 HYPOTENSION (NOT SHOCK):  Has been hemodynamically stable since going
   back to OR for clot evacuation.
 HYPOXIA:  Now 93% on room air sitting up in chair.  Still with
   crackles at bases, atelectasis vs. mild congestion/fluid overload.
   Autodiuresing this morning, negative 1 L since midnight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2160-1-28**] 08:00 PM
   Arterial Line - [**2160-1-29**] 11:14 AM
   18 Gauge - [**2160-1-29**] 02:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes